US07943669B2
Step A: {4-[3-(2-Cyclohexyl-ethoxy)-5-phenylethynyl-phenylsulfanyl]-2-methylphenoxy}-acetic Acid Ethyl Ester
The title product was prepared from {4-[3-Bromo-5-(2-cyclohexyl-ethoxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (300 mg; 0.58 mmol), phenylacetylen (181.1 mg; 1.8 mmol) applying the procedure described for {4-[3-[2-(4-Chloro-phenyl)ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester. The crude product was purified by preparative HPLC (method B). Yield: 110 mg (33%). HPLC-MS: m/z: 529.6 (M+H)+; Rt: 3.38 min.

reactant | {4-[3-Bromo-5-(2-cyclohexyl-ethoxy)phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.58 mmol, 300 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCC1CCCCC1)Br)C)=O | C25H31BrO4S
reactant | phenylacetylen | 1.8 mmol, 181.1 mg | C1(=CC=CC=C1)C#C | C8H6
reactant | {4-[3-[2-(4-Chloro-phenyl)ethoxy]-5-(4-hydroxymethyl-phenylethynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=C(C=C1)CO)OCCC1=CC=C(C=C1)Cl)C)=O | C34H31ClO5S
product | {4-[3-(2-Cyclohexyl-ethoxy)-5-phenylethynyl-phenylsulfanyl]-2-methylphenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CC1=CC=CC=C1)OCCC1CCCCC1)C)=O | C33H36O4S
